US05969190
8.55 g of carefully dried (3R,5R)-[2-[3,5-bis-(t-butyldimethyl-silanyloxy)-cyclohexylidene]-ethyl]-diphenyl-phosphine oxide (Tetrahedron Lett. 32, 7663 (1991)) was dissolved in 90 ml of abs. THF and treated at -78° with 10.9 ml of nBuLi (1.6M, hexane). After 20 minutes, 2.27 g of (S)-5,9-dimethyl-9-trimethylsilanyloxy-decanal, dissolved in a small amount of THF, was added dropwise to the deep red solution. The mixture was kept for 0.5 h at -78° and for 4 h at ambient temperature. After quenching with crushed ice/ KH2PO4, the product was extracted twice with ether, washed with water and brine, dried over sodium sulfate and the solvents removed i.V. Flash chromatography (SiO2, hexane/ AcOEt) yielded in the less polar fractions 3.840 g of (R)-1-[(3R,5R)-3,5-bis-(tert-butyldimethyl-silanyloxy)-cyclohexylidene]-7,11-dimethyl-11-trimethylsilanyloxy-dodec-2-ene, as colorless oil, which was deprotected as described in the following paragraph. 2.40 g of phosphine oxide, which had been used in excess, were recovered in the more polar fractions.

reactant | (3R,5R)-[2-[3,5-bis-(t-butyldimethyl-silanyloxy)-cyclohexylidene]-ethyl]-diphenyl-phosphine oxide | C(C)(C)(C)[Si](O[C@@H]1CC(C[C@H](C1)O[Si](C)(C)C(C)(C)C)=CCP(C1=CC=CC=C1)(C1=CC=CC=C1)=O)(C)C | C32H51O3PSi2
reactant | nBuLi | 1.6M, 10.9 ml | [Li]CCCC
reactant | (S)-5,9-dimethyl-9-trimethylsilanyloxy-decanal | 2.27 g | C[C@H](CCCC=O)CCCC(C)(O[Si](C)(C)C)C | C15H32O2Si
solvent | THF | C1CCOC1 | C4H8O
product | (R)-1-[(3R,5R)-3,5-bis-(tert-butyldimethyl-silanyloxy)-cyclohexylidene]-7,11-dimethyl-11-trimethylsilanyloxy-dodec-2-ene | 3.840 g | C(C)(C)(C)[Si](O[C@@H]1CC(C[C@H](C1)O[Si](C)(C)C(C)(C)C)=CC=CCCC[C@H](CCCC(C)(O[Si](C)(C)C)C)C)(C)C | C35H72O3Si3
